US04105675
3',4',5,7-Tetraacetoxyflavan
To a stirred solution of 1.0 grams 3',4',5,7-tetraacetoxyflavanone in 50 ml of 50% THF-ethanol was added 100 mg NaBH4. After 30 min., an additional 100 mg NaBH4 was added and stirring continued at room temperature for a total of 1 hour. The mixture was then poured into 200 ml of cold 0.5% acetic acid and extracted three times with 75 ml CHCl3. The combined CHCl3 extracts were dried (NA2SO4) and evaporated to give a thick oil. To the oil was added 6 ml acetic anhydride and 8 ml pyridine and this solution allowed to stand at room temperature overnight. After pouring into 100 ml ice water, the resulting emulsion was extracted with 125 ml chloroform and the chloroform washed with 100 ml ice water, 100 ml cold 3% HCl and 100 ml 0.5% NaHCO3. Drying (Na2SO4) and evaporating the CHCl3 gave an oil which was purified by chromatography on a 2.5 × 4.0 cm column of SILICAR CC-7. The first material to elute with 60% CHCl3 -hexane was 3',4',5,7-tetraacetoxyflavan, which after recrystallization from MeOH, was obtained in an amount of 345 mg (36% yield) mp 143°-4° C.

reactant | 3',4',5,7-tetraacetoxyflavanone | 1.0 grams | C(C)(=O)OC=1C=C(C2OC3=CC(=CC(=C3C(C2)=O)OC(C)=O)OC(C)=O)C=CC1OC(C)=O | C23H20O10
reactant | NaBH4 | 100 mg | [BH4-].[Na+]
reactant | NaBH4 | 100 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF ethanol | 50 ml | C1CCOC1.C(C)O
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 3',4',5,7-Tetraacetoxyflavan | 36% yield | C(C)(=O)OC=1C=C(C2OC3=CC(=CC(=C3CC2)OC(C)=O)OC(C)=O)C=CC1OC(C)=O | C23H22O9
